US08957215B2
2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylic acid hydrochloride acid (46 mg, 0.12 mmol) was added to thionyl chloride (3 mL), followed by 3 drops DMF, before heating at 70° C. o.n. The solvent was thereafter evaporated in vacuo and once with toluene to give crude 2-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carbonyl chloride. Ammonium hydroxide (cone., 3 mL) was added dropwise to this crude product and the mixture was thereafter stirred for 1 h at r.t. The r.m. was extracted twice with DCM, dried (Na2SO4), and evaporated in vacuo. The obtained residue was purified by prep. HPLC to give the title compound (7 mg) as a light yellow solid. 1H NNR δ 8.81 (d, 1 H) 8.58 (s, 1 H) 8.16 (dd, 1 H) 8.07 (br. s., 1 H) 7.99 (s, 2 H) 7.45 (br. s., 1 H) 7.00 (d, 1 H) 3.61-3.71 (m, 4 H) 2.37-2.46 (m, 4 H) 2.23 (s, 3 H) 1.89 (s, 3 H); MS m/z (M+H) 354.

reactant | 2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylic acid hydrochloride | 0.12 mmol, 46 mg | Cl.CN1CCN(CC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)O
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carbonyl chloride | CN1CCN(CC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)Cl | C18H17ClN4OS
